US08207167B2
N-(3-((Dimethylamino)methyl)phenyl)-4-(pyrimidin-2-yl)benzenesulfonamide (ABD860)
4-Bromo-N-(3-((dimethylamino)methyl)phenyl)benzenesulfonamide (273 mg, 0.74 mmol), pyrimidine-5-boronic acid (101 mg, 0.81 mmol) and Pd(dppf)Cl2 (29 mg, 5 mol %) were dissolved in DME (4 mL) and 2M Na2CO3 solution (1.11 mL, 2.22 mmol) was added. The vessel was sealed and purged with argon for 5 minutes while it was placed in an ultrasonic bath. The flask was then placed in a pre-heated oil bath (90° C.) for 1 hour. After this time the reaction was cooled to room temperature and absorbed onto silica. The material was semi-purified by flash chromatography (Isolute II, 70 g silica cartridge, SP4) eluting with 4.5-5.5% MeOH/NH3:DCM, followed by reverse-phase HPLC and finally by trituration from 1:1 v/v Et2O:hexane to give the title compound as a colourless solid (26 mg, 10%). 1H NMR (300 MHz, DMSO-d6): δ 2.13 (6H, s), 3.32 (2H, s), 6.99 (1H, br s), 7.06 (2H, d, J=9 Hz), 7.21 (1H, t, J=8 Hz), 7.62 (2H, d, J=8.5 Hz), 7.89 (2H, d, J=8.5 Hz), 8.92 (2H, s) and 9.25 (1H, s). LCMS: (MH)+=369; (M−H)−=367.

reactant | 4-Bromo-N-(3-((dimethylamino)methyl)phenyl)benzenesulfonamide | 0.74 mmol, 273 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)CN(C)C | C15H17BrN2O2S
reactant | pyrimidine-5-boronic acid | 0.81 mmol, 101 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Na2CO3 | 2.22 mmol, 2M, 1.11 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 4 mL | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 | 29 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(3-((Dimethylamino)methyl)phenyl)-4-(pyrimidin-2-yl)benzenesulfonamide | 26 mg, 10% | CN(C)CC=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)C1=NC=CC=N1 | C19H20N4O2S
